US04182870
11.7 g (30 mmoles) of t-butyl 7-benzamido-3-methyl-3-cephem-4-carboxylate 1-oxide were dissolved in 250 ml of methylene chloride and the solution was kept under nitrogen and cooled in ice while 5.3 ml (45 mmoles) of triethylamine and 6.4 g (36 mmoles) of N-bromosuccinimide were subsequently added. The resulting solution was irradiated with a 150 W tungsten lamp for 20 minutes and the dark-brown solution was washed with dilute hydrochloric acid (pH 1) and with water. After drying over magnesium sulfate, the solution was concentrated by evaporation to approximately 100 ml. To the solution of t-butyl 7-benzamido-2-bromo-3-methyl-3-cephem-4-carboxylate 1-oxide thus obtained were added 100 ml of acetic acid and the resulting solution was held under nitrogen and was cooled in ice and irradiated with a 150 W tungsten lamp. 7.15 g (40 mmoles) of N-bromosuccinimide were added thereto followed after 4 hours by another 1.78 g (10 mmoles) of the same compound. Then, the solution was irradiated with a 150 W tungsten lamp for another 3 hours. Part of the solution thus obtained (52%), which contained t-butyl 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylate 1-oxide, was washed 4 times with 100 ml of water. After drying over magnesium sulfate, the solution was concentrated by evaporation to approximately 25 ml. Then, 5 ml of methanol were added thereto and the solution was treated with activated charcoal. After addition of 1,2-dichloroethane, the solution was evaporated to dryness and the residue was dissolved in diethyl ether. The product was precipitated with n-heptane to obtain 6.8 g (79.4%) of t-butyl 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylate 1-oxide.

reactant | t-butyl 7-benzamido-3-methyl-3-cephem-4-carboxylate 1-oxide | 30 mmoles, 11.7 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2=O)C)C(=O)OC(C)(C)C)C1=O | C19H22N2O5S
reactant | triethylamine | 45 mmoles, 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | N-bromosuccinimide | 36 mmoles, 6.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | tungsten | [W] | W
product | t-butyl 7-benzamido-2-bromo-3-methyl-3-cephem-4-carboxylate 1-oxide | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(C(S2=O)Br)C)C(=O)OC(C)(C)C)C1=O | C19H21BrN2O5S
